US04267314
Continuous preparation of lactosylurea.
360 g of lactose monohydrate (1 mole) were mixed with 60 g of urea (1 mole) and 10.6 ml of a solution made up of 100 ml of H2O and 6 ml of 98% H2SO4. The mixture was melted and deposited as a thin layer on the moving belt of a tunnel oven. This oven was equipped with a system for controlling its temperature in a first third of its length (zone I) according to a temperature gradient and, in the second 2/3 of its length (zone II), at a constant temperature. Zone I was subjected to a temperature gradient ranging from ambient, at the entrance, to 100°-110° at the end of zone I; zone II was maintained at a constant temperature of 100°-110° C. The mixture coated on the belt thus penetrated into the tunnel and was gradually heated, in 11/2 hrs, to 110° after which it entered zone II where it stayed for 2-3 hrs at 110° C. At the exit of the tunnel, the mixture was cooled and had the aspect of a slightly foamy, crystalline, light brown material, easy to remove from the belt with a doctor-knife and which could be ground into a powder. This product was collected in a continuous manner and about 400 g were obtained.

reactant | lactose monohydrate | 1 mole, 360 g | O.OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO
reactant | urea | 1 mole, 60 g | NC(=O)N | CH4N2O
reactant | H2SO4 | 6 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | 100 ml | O | H2O
product | lactosylurea | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](OC([C@@H]([C@H]2O)O)NC(=O)N)CO)O)O)O)O | C13H24N2O11
